* E:\GitHub\MCMOD-Industria\Versandordner\NGspice\Generator.asc
I1 N003 N002 P{nominal_current}
V1 N001 N002 P{nominal_voltage}
I2 N003 N{GND} P{nominal_current}
S4 N{VDC} N001 N001 N{VDC} diosw
S5 N003 N002 N002 N003 diosw
S6 N003 N{GND} N{GND} N003 diosw
.model diosw sw vt=0 vh=0.001 ron=0.001 roff=10e9
.end
