* E:\GitHub\MCMOD-Industria\Versandordner\NGspice\Generator.asc
I1 N003 N002 ${nominal_current}
V1 N001 N002 ${nominal_voltage}
I2 N003 0 ${nominal_current}
S4 VDC N001 N001 VDC diosw
S5 N003 N002 N002 N003 diosw
S6 N003 0 0 N003 diosw
.model diosw sw vt=0 vh=0.001 ron=0.001 roff=10e9
.end
