ingame-level-circuit
* Load-Resistor with fixed power consumtion
* B1_19 node[pos3_-56_-6_id0_lid0_lnml] node[pos3_-56_-6_id0_lid1_lnmn] P=3600.000047846662
R1_19 node[pos3_-56_-6_id0_lid0_lnml] node[pos3_-56_-6_id0_lid1_lnmn] R=V(node[pos3_-56_-6_id0_lid0_lnml], node[pos3_-56_-6_id0_lid1_lnmn])**2/3600.000047846662
* Simple resistor for different uses
R1_20 node[pos3_-60_-11_id0_lid0_lnml] node[pos3_-56_-6_id0_lid0_lnml] 0.009000000000000001
* Simple resistor for different uses
R1_21 node[pos3_-60_-11_id0_lid1_lnmn] node[pos3_-56_-6_id0_lid1_lnmn] 0.009000000000000001
* Simple resistor for different uses
R1_22 node[pos3_-60_-11_id0_lid2_lnm] node[pos3_-56_-6_id0_lid2_lnm] 0.009000000000000001
* Simple resistor for different uses
R1_23 node[pos3_-60_-11_id0_lid3_lnm] node[pos3_-56_-6_id0_lid3_lnm] 0.009000000000000001
* Simple resistor for different uses
R1_24 node[pos3_-60_-11_id0_lid4_lnm] node[pos3_-56_-6_id0_lid4_lnm] 0.009000000000000001
* Simple resistor for different uses
R1_25 node[pos3_-60_-11_id0_lid5_lnm] node[pos3_-56_-6_id0_lid5_lnm] 0.009000000000000001
* Simple resistor for different uses
R1_26 node[pos3_-60_-11_id0_lid0_lnml] node[pos4_-60_-11_id0_lid0_lnml] 0.001
* Simple resistor for different uses
R1_27 node[pos3_-60_-11_id0_lid1_lnmn] node[pos4_-60_-11_id0_lid1_lnmn] 0.001
* Simple resistor for different uses
R1_28 node[pos3_-60_-11_id0_lid2_lnm] node[pos4_-60_-11_id0_lid2_lnm] 0.001
* Simple resistor for different uses
R1_29 node[pos3_-60_-11_id0_lid3_lnm] node[pos4_-60_-11_id0_lid3_lnm] 0.001
* Simple resistor for different uses
R1_30 node[pos3_-60_-11_id0_lid4_lnm] node[pos4_-60_-11_id0_lid4_lnm] 0.001
* Simple resistor for different uses
R1_31 node[pos3_-60_-11_id0_lid5_lnm] node[pos4_-60_-11_id0_lid5_lnm] 0.001
* Simple resistor for different uses
R1_32 node[pos4_-60_-11_id0_lid0_lnml] node[pos7_-60_-11_id0_lid0_lnml] 0.004
* Simple resistor for different uses
R1_33 node[pos4_-60_-11_id0_lid1_lnmn] node[pos7_-60_-11_id0_lid1_lnmn] 0.004
* Simple resistor for different uses
R1_34 node[pos4_-60_-11_id0_lid2_lnm] node[pos7_-60_-11_id0_lid2_lnm] 0.004
* Simple resistor for different uses
R1_35 node[pos4_-60_-11_id0_lid3_lnm] node[pos7_-60_-11_id0_lid3_lnm] 0.004
* Simple resistor for different uses
R1_36 node[pos4_-60_-11_id0_lid4_lnm] node[pos7_-60_-11_id0_lid4_lnm] 0.004
* Simple resistor for different uses
R1_37 node[pos4_-60_-11_id0_lid5_lnm] node[pos7_-60_-11_id0_lid5_lnm] 0.004
* Current limited power source
R1_38 node[pos7_-60_-11_id0_lid2_lnmpower_shunt] node[pos7_-60_-11_id0_lid0_lnml] 0.001
I1_38 N003_38 N002_38 8.695652173913043
V1_38 N001_38 N002_38 230
I2_38 N003_38 node[pos7_-60_-11_id0_lid1_lnmn] 8.695652173913043
S4_38 node[pos7_-60_-11_id0_lid2_lnmpower_shunt] N001_38 N001_38 node[pos7_-60_-11_id0_lid2_lnmpower_shunt] source_diosw
S5_38 N003_38 N002_38 N002_38 N003_38 source_diosw
S6_38 N003_38 node[pos7_-60_-11_id0_lid1_lnmn] node[pos7_-60_-11_id0_lid1_lnmn] N003_38 source_diosw
.model source_diosw sw vt=0 vh=0.001 ron=0.001 roff=10e9
.op
R1 node[pos7_-60_-11_id0_lid5_lnm] 0 1
.end
