ingame-level-circuit
* Component Block{industria:portable_fuel_generator} BlockPos{x=7, y=-60, z=-5}

* Power limited voltage source [ p_maxmimum=2000, v_nominal=230 ]
V1_0 N001_0 GND_G1 230
R2_0 N001_0 SHUNT_G1 R={max((230/2000) * V(N001_0, SHUNT_G1), 1u)}
R1_0 SHUNT_G1 VDC_G1 0.001
* Component Conduit{industria:insulated_gold_wire} ConduitPos{A=NodePos{block=[7 -60 -5],node=0},B=NodePos{block=[7 -58 -3],node=0}}

* Simple resistor for different uses [ r=0.003 ]
R1_1 VDC_G1 VDC_T1 0.003

* Simple resistor for different uses [ r=0.003 ]
R1_2 GND_G1 GND_T1 0.003
* Component Block{industria:electro_magnetic_coil} BlockPos{x=7, y=-58, z=-3}

* DC Voltage converter [n_winding_ratio=0.5, p_maximum=500.0 ]
R1_3 VDC_T1 GND_T1 R={V(VDC_T1, GND_T1)/-I(B1_3)/0.5}
R2_3 VDC_T2 N001_3 R={max((V(N001_3, GND_T2)/500.0) * V(N001_3, VDC_T2), 1u)}
B1_3 N001_3 GND_T2 V={V(VDC_T1, GND_T1)*0.5}

R3_3 GND_T2 GND_T1 1G

R0GND GND_T1 0 1
.op
.end
