ingame-level-circuit
R1_0 node|pos8_~60_17_id0_lid2_lnmshunt| node|pos8_~60_17_id0_lid0_lnml| 1m
B1_0 node|pos8_~60_17_id0_lid2_lnmshunt| node|pos8_~60_17_id0_lid1_lnmn| V=min(230,2000/max(1m,+I(R1_0)))
R1_1 node|pos5_~60_17_id0_lid0_lnml| node|pos8_~60_17_id0_lid0_lnml| 0.004
R1_2 node|pos5_~60_17_id0_lid1_lnmn| node|pos8_~60_17_id0_lid1_lnmn| 0.004
R1_3 node|pos5_~60_17_id0_lid2_lnm| node|pos8_~60_17_id0_lid2_lnm| 0.004
R1_4 node|pos5_~60_17_id0_lid3_lnm| node|pos8_~60_17_id0_lid3_lnm| 0.004
R1_5 node|pos5_~60_17_id0_lid4_lnm| node|pos8_~60_17_id0_lid4_lnm| 0.004
R1_6 node|pos5_~60_17_id0_lid5_lnm| node|pos8_~60_17_id0_lid5_lnm| 0.004
R1_7 node|pos1_~60_17_id0_lid0_lnml| node|pos5_~60_17_id0_lid0_lnml| 0.004
R1_8 node|pos1_~60_17_id0_lid1_lnmn| node|pos5_~60_17_id0_lid1_lnmn| 0.004
R1_9 node|pos1_~60_17_id0_lid2_lnm| node|pos5_~60_17_id0_lid2_lnm| 0.004
R1_10 node|pos1_~60_17_id0_lid3_lnm| node|pos5_~60_17_id0_lid3_lnm| 0.004
R1_11 node|pos1_~60_17_id0_lid4_lnm| node|pos5_~60_17_id0_lid4_lnm| 0.004
R1_12 node|pos1_~60_17_id0_lid5_lnm| node|pos5_~60_17_id0_lid5_lnm| 0.004
R1_13 node|pos1_~60_17_id0_lid0_lnml| node|pos1_~60_17_id0_lid1_lnmn| R={230/(400/230)}
R1_14 node|pos1_~60_15_id0_lid0_lnml| node|pos1_~60_17_id0_lid0_lnml| 0.002
R1_15 node|pos1_~60_15_id0_lid1_lnmn| node|pos1_~60_17_id0_lid1_lnmn| 0.002
R1_16 node|pos1_~60_15_id0_lid2_lnm| node|pos1_~60_17_id0_lid2_lnm| 0.002
R1_17 node|pos1_~60_15_id0_lid3_lnm| node|pos1_~60_17_id0_lid3_lnm| 0.002
R1_18 node|pos1_~60_15_id0_lid4_lnm| node|pos1_~60_17_id0_lid4_lnm| 0.002
R1_19 node|pos1_~60_15_id0_lid5_lnm| node|pos1_~60_17_id0_lid5_lnm| 0.002
R1_20 node|pos1_~60_15_id0_lid0_lnml| node|pos1_~60_15_id0_lid1_lnmn| R={230/(400/230)}
R1_21 node|pos1_~60_15_id0_lid0_lnml| node|pos1_~60_14_id0_lid0_lnml| 0.001
R1_22 node|pos1_~60_15_id0_lid1_lnmn| node|pos1_~60_14_id0_lid1_lnmn| 0.001
R1_23 node|pos1_~60_15_id0_lid2_lnm| node|pos1_~60_14_id0_lid2_lnm| 0.001
R1_24 node|pos1_~60_15_id0_lid3_lnm| node|pos1_~60_14_id0_lid3_lnm| 0.001
R1_25 node|pos1_~60_15_id0_lid4_lnm| node|pos1_~60_14_id0_lid4_lnm| 0.001
R1_26 node|pos1_~60_15_id0_lid5_lnm| node|pos1_~60_14_id0_lid5_lnm| 0.001
R1_27 node|pos1_~60_14_id0_lid0_lnml| node|pos1_~60_14_id0_lid1_lnmn| R={230/(400/230)}
R1_28 node|pos1_~60_14_id0_lid0_lnml| node|pos1_~60_13_id0_lid0_lnml| 0.001
R1_29 node|pos1_~60_14_id0_lid1_lnmn| node|pos1_~60_13_id0_lid1_lnmn| 0.001
R1_30 node|pos1_~60_14_id0_lid2_lnm| node|pos1_~60_13_id0_lid2_lnm| 0.001
R1_31 node|pos1_~60_14_id0_lid3_lnm| node|pos1_~60_13_id0_lid3_lnm| 0.001
R1_32 node|pos1_~60_14_id0_lid4_lnm| node|pos1_~60_13_id0_lid4_lnm| 0.001
R1_33 node|pos1_~60_14_id0_lid5_lnm| node|pos1_~60_13_id0_lid5_lnm| 0.001
R1_34 node|pos1_~60_13_id0_lid0_lnml| node|pos1_~60_13_id0_lid1_lnmn| R={230/(400/230)}
R1_35 node|pos1_~60_13_id0_lid0_lnml| node|pos1_~60_12_id0_lid0_lnml| 0.001
R1_36 node|pos1_~60_13_id0_lid1_lnmn| node|pos1_~60_12_id0_lid1_lnmn| 0.001
R1_37 node|pos1_~60_13_id0_lid2_lnm| node|pos1_~60_12_id0_lid2_lnm| 0.001
R1_38 node|pos1_~60_13_id0_lid3_lnm| node|pos1_~60_12_id0_lid3_lnm| 0.001
R1_39 node|pos1_~60_13_id0_lid4_lnm| node|pos1_~60_12_id0_lid4_lnm| 0.001
R1_40 node|pos1_~60_13_id0_lid5_lnm| node|pos1_~60_12_id0_lid5_lnm| 0.001
R1_41 node|pos1_~60_12_id0_lid0_lnml| node|pos1_~60_12_id0_lid1_lnmn| R={230/(400/230)}
R0GND node|pos8_~60_17_id0_lid0_lnml| 0 1
.op
.end
